US08309581B2
a) 4-[2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile
The title compound was prepared in analogy to Example 5, intermediate a, from 4-[2-(4-chloro-2-hydroxy-phenyl)-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile and iodomethyl-cyclopentane (CAS Reg. No. 27935-87-1). Light yellow sticky solid (35%). MS (Turbo Spray): m/z=460.2 (M+H).

reactant | 4-[2-(4-chloro-2-hydroxy-phenyl)-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1=C(C=C(C#N)C=C1)F)C=CC=C2)O | C21H13ClFN3O
reactant | iodomethyl-cyclopentane | ICC1CCCC1 | C6H11I
product | 4-[2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-benzoimidazol-1-ylmethyl]-3-fluoro-benzonitrile | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1=C(C=C(C#N)C=C1)F)C=CC=C2)OCC2CCCC2 | C27H23ClFN3O
